US06313312B1
N-{3-[6-Methyl-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}propanesulfonamide acetate salt
To a solution of 3-[6-methyl-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenylamine (Preparation 8, 200 mg, 0.65 mmol) in pynidine (2 ml) under nitrogen at 0° C. was added n-propanesulfonyl chloride (140 mg, 0.98 mmol), then the mixture was stirred at room temperature for 16 hours. Water (5 ml) and dichloromethane (5 ml) were added, and the mixture was stirred for 30 minutes. The organic phase was washed further with water (5 ml) for 30 minutes, separated, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica (10 g) column chromatography eluting with ethyl acetate:hexane:ammonia solution (0.880) (20:80:1 then 50:50:1). Product-containing fractions were combined and concentrated in vacuo. The residue was further purified by preparative HPLC (condition 4). Combination and evaporation of appropriate fractions gave the title compound as a pale brown solid (11 mg, 4%).

reactant | 3-[6-methyl-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenylamine | 0.65 mmol, 200 mg | CC1(C2CN(CC12)CCCC1=CC=CC=C1)C=1C=C(C=CC1)N | C21H26N2
reactant | n-propanesulfonyl chloride | 0.98 mmol, 140 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | Water | 5 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-{3-[6-Methyl-3-(3-phenylpropyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}propanesulfonamide acetate salt | 11 mg, 4% | C(C)(=O)O.CC1(C2CN(CC12)CCCC1=CC=CC=C1)C=1C=C(C=CC1)NS(=O)(=O)CCC | InChI=1S/C24H32N2O2S.C2H4O2/c1-3-15-29(27,28)25-21-13-7-12-20(16-21)24(2)22-17-26(18-23(22)24)14-8-11-19-9-5-4-6-10-19;1-2(3)4/h4-7,9-10,12-13,16,22-23,25H,3,8,11,14-15,17-18H2,1-2H3;1H3,(H,3,4)
